US04894377
Under a nitrogen atmosphere, 0.3 g of 5-hydroxy-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester is refluxed for 4 hours in 60 ml of ethanol with 0.3 g of potassium carbonate and 0.174 g of 3-fluorobenzyl chloride. After filtration and concentration under vacuum, the residue is chromatographed over silica gel (methylene chloride +ethanol/1000+25), thus obtaining 0.167 g of 5-(3-fluorobenzyloxy)-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester, mp 188.0° C.

reactant | 5-hydroxy-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | 0.3 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)O | C16H16N2O4
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluorobenzyl chloride | 0.174 g | FC=1C=C(CCl)C=CC1 | C7H6ClF
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-(3-fluorobenzyloxy)-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | 0.167 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OCC1=CC(=CC=C1)F | C23H21FN2O4
